US05330986
Indole-7-carboxylic acid (3.20 g, 0.020 mole) was dissolved in 50 ml of dimethylformamide (DMF) and 3.3 g (0.020 mole) of N,N'-carbonyldiimidazolewas added. After stirring for 2 hours at room temperature, 2.0 g (0.023 mole) of N,N-dimethylethylenediamine was added, and stirring was continuedfor an additional 1 hour. At the end of this time the solvent was removed at a pressure of 0.1 mm Hg (50° C.) and the remaining residue was triturated with a minimum of H2O and the crude product was filtered off and dried and concentrated to give a solid. Recrystallization from ether-pentane gave 2.20 g of N-[2-(dimethylamino)ethyl]-1H-indole-7-carboxamide (48%), m.p. 100°-102° C.

reactant | Indole-7-carboxylic acid | 0.020 mole, 3.20 g | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | N,N-dimethylethylenediamine | 0.023 mole, 2.0 g | CN(CCN)C | C4H12N2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-[2-(dimethylamino)ethyl]-1H-indole-7-carboxamide | 2.20 g, 48% | CN(CCNC(=O)C=1C=CC=C2C=CNC12)C | C13H17N3O
